US03980618
1-(1,3-Dimethylureido)-3-(methylthio)propylphosphonic acid ##EQU14##
When a mixture of 0.5 mole each of 1,3-dimethylurea, triphenyl phosphite, and 3-methylthiopropionaldehyde in 100g of toluene is warmed to 75°, a reaction is initiated and the temperature increases rapidly to 120°. After further warming at 105° for 1 hr, the resulting yellow solution has a 31P nmr signal only at -28.2 ppm. After the solvent and most of the byproduct phenol are removed by stripping to 110°/1mm, one-third of the residue is dissolved in 75ml of acetonitrile and 10g of water, and this solution is refluxed for 3 hr. The reaction mixture is allowed to evaporate to dryness, and the residue is extracted with ether and then with hot acetonitrile and recrystallized twice from acetic acid to give a white solid: mp 164.5°-167°; 31P nmr (DMSO-d6) -21.4 ppm; 1H nmr δ9.6 (broad, 2, OH), 4.5 (m, 1, PCH), 2.8 (s, NCH3), 2.6 (s, NCH3), 2.0 (s, SCH3), 1.9-2.6 (m, CH2CH2S).

reactant | 1,3-dimethylurea | 0.5 mole | CNC(=O)NC | C3H8N2O
reactant | triphenyl phosphite | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | 3-methylthiopropionaldehyde | CCCC=S | C4H8S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(1,3-Dimethylureido)-3-(methylthio)propylphosphonic acid | CN(C(=O)NC)C(CCSC)P(O)(O)=O | C7H17N2O4PS
